US05126336
Aqueous 3% sodium bicarbonate (100 ml) was added to a suspension of diphenylmethyl 7-amino-3-[(Z)-3-chloro-1-pro-pen-1-yl]-3-cephem-4-carboxylate hydrochloride (IIa) (7.18 g, 15 mmol) [for preparation of compound IIa see, U.S. Pat. No. 4,751,295 issued on Jun. 14, 1988 to Oka, et al.) in methylene chloride (100 ml) and the mixture was stirred for 30 min at room temperature. The organic layer was separated and the aqueous layer was extracted with methylene chloride. The combined extract was dried over anhydrous MgSO4 and concentrated in vacuo. The residue was dissolved in methylene chloride (80 ml) and the solution was treated with di-t-butyl dicarbonate (5.3 g, 24.3 mmol). The mixture was stirred at room temperature for 2 days, during which additional portions of di-t-butyl dicarbonate (2.7 g and 3.4 g) were added to the mixture. The insoluble was filtered off; the filtrate was concentrated; and the residue was chromatographed on a column of silica gel (toluene:EtOAc, 10:1 ) to give 5.66 g (70 % yield) of crystalline diphenylmethyl 7-t-butoxycarbonylamino-3-[(Z)-3-chloro-1-propen-1-yl]-3-cephem-4-carboxylate (IIIa).

reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
reactant | diphenylmethyl 7-amino-3-[(Z)-3-chloro-1-pro-pen-1-yl]-3-cephem-4-carboxylate hydrochloride | 15 mmol, 7.18 g | Cl.NC1[C@@H]2N(C(=C(CS2)\C=C/CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O
reactant | di-t-butyl dicarbonate | 24.3 mmol, 5.3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-t-butyl dicarbonate | 2.7 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | diphenylmethyl 7-t-butoxycarbonylamino-3-[(Z)-3-chloro-1-propen-1-yl]-3-cephem-4-carboxylate | 5.66 g, 70 % yield | C(C)(C)(C)OC(=O)NC1[C@@H]2N(C(=C(CS2)\C=C/CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C28H29ClN2O5S
